US08835653B2
1.1) (2S,5R)-2-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-isopropyl-3,6-dimethoxy-2,5-dihydro-pyrazine (Intermediate 1)
Commercially available (R)-2-isopropyl-3,6-dimethoxy-2,5-dihydro-pyrazine (2.0 g, 10.86 mmol) in dry THF (12 ml) under argon was cooled to −75° C. n-BuLi (8 ml, 13.03 mmol, 1.6M solution in hexanes) was added slowly and stirring was continued for 30 min. After that 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole (3.628 g, 13.03 mmol), (preparation described in J. Med. Chem. 2005, 4511-4525; Bioorg. Med. Chem. Lett. 2004, 4191-4195), in THF (15 ml) was added dropwise under stirring and stirring was continued for 30 min at −75° C. Then the mixture was warmed to 0° C. and stirred for 1 h before it was quenched with sat. aq. NaHCO3-solution. The mixture was extracted with ethyl acetate, the organic layers were combined and dried with MgSO4, filtered and evaporated to dryness. A crude oil was obtained (4.1 g) and the diastereomeric excess (d.e.: 88%) was determined by H-NMR from that crude mixture. The mixture was separated by column chromatography on silica gel (n-heptane-ethyl acetate 6:1). Yield: 3.3 g, 80%.

reactant | (R)-2-isopropyl-3,6-dimethoxy-2,5-dihydro-pyrazine | 10.86 mmol, 2.0 g | C(C)(C)[C@H]1N=C(CN=C1OC)OC | C9H16N2O2
reactant | n-BuLi | 13.03 mmol, 1.6M, 8 ml | [Li]CCCC
reactant | 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 13.03 mmol, 3.628 g | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (2S,5R)-2-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-isopropyl-3,6-dimethoxy-2,5-dihydro-pyrazine | ClC1=CC=C(S1)C1=CC(=NO1)C[C@@H]1N=C([C@H](N=C1OC)C(C)C)OC | C17H20ClN3O3S
